US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester
As described for example 5, (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (200 mg, 1.06 mmol) was converted using methyl 6-chloronicotinate instead of 6-chloronicotinonitrile to the title compound (SiO2, heptane:ethyl acetate=100:0 to 70:30, 191 mg, 42%) which was obtained as a colourless oil. MS: m/e=325.3 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 1.06 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | methyl 6-chloronicotinate | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 191 mg, 42% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
